US07326791B2
rac.-N-{1-[6-chloro-1-(hydroxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-hydroxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 19b from rac.-N-{1-[6-chloro-1-(methoxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-hydroxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide and sodium hydroxide solution in methanol. Yield: 79%; Rf value: 0.18 (silica gel; dichloromethane/ethanol/ammonia=9:1:0.1); C30H29ClN4O5 (561.04); mass spectrum: (M+H)+=561/563 (chlorine isotope).

reactant | rac.-N-{1-[6-chloro-1-(methoxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-hydroxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC=1C=CC2=C(N(C(=N2)C(CC2=CC=C(C=C2)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)CC(=O)OC)C1 | C31H31ClN4O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dichloromethane ethanol ammonia | ClCCl.C(C)O.N
reactant | chlorine | ClCl | Cl2
solvent | methanol | CO | CH4O
product | rac.-N-{1-[6-chloro-1-(hydroxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-hydroxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 79% | ClC=1C=CC2=C(N(C(=N2)C(CC2=CC=C(C=C2)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)CC(=O)O)C1 | C30H29ClN4O5
